Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin / azithromycin / amoxicillin
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: Chest pain 
 
Major Surgical or Invasive Procedure:
___ Coronary angiography and left heart catheterization 
with right radial access

 
History of Present Illness:
Mr. ___ is a ___ year old man with a prior history of 
borderline hypertension and recurrent strep pharyngitis who 
presents with sore throat, fevers, chills, nausea and vomiting 
in addition to chest pressure. 

He was in his usual state of health until ___ when he 
worked all day inside of a very hot ___. He felt suddenly 
lethargic, diaphoretic and tremulous, and subsequently had some 
episodes of emesis and a headache. He had intenseThe following 
day he felt slightly improved, but developed sore throat 
consistent with prior strep pharyngitis infections. On ___ he 
was still feeling tired and somewhat weak with a sore throat. 
Around midnight on the morning of admission, he developed 
substernal chest pain. This lasted an hour, but then returned an 
hour lated and lasted until admission. He denied pleuritic or 
positional pain. 

He describes the sensation mostly as an irritation with some 
heaviness and no radiation. Notably the pain was worse with deep 
inspiration but was not positional. Given concern for inability 
to eat or drink well and the heaviness in his chest, he 
presented to the ED. 

He has not had any sick contacts, recent travel, tick exposure, 
new medications, illicit drugs. He has had knee pain related to 
a meniscal tear and has been taking 600mg ibuprofen three times 
daily. 

EMERGENCY DEPARTMENT COURSE
In the ED initial vitals were:  
- T: 97.0, HR: 74, BP: 124/83, O2: 100% RA

Exam notable for:  
- Exam: +tonsillar exudates. +cervical adenopathy ttp. CV/Lung
exam wnl. Abd benign. wwp. 

Images notable for:  
- CXR with no acute intrathoracic process 

EKG: 
- ST Depression V1 and V3 with J point elevation in lateral
leads, nonspecific but could represent ischemia
- Posterior EKG with 1mm ST elevation in V7 and V8

Patient was given:  
___ ___
___ 07:03IVKetorolac 15 mg
___ 07:03IVDexamethasone 10 mg
___ 07:47PO/NGSulfameth/Trimethoprim DS 1 TAB
___ 07:47PO/NGCephalexin 500 mg
___ 08:37PO/NGAspirin 324 mg
___ 08:41SLNitroglycerin SL .4 mg
___ 08:51IVFNS 1000 mLStopped (2h ___
___ 09:26PO/NGAtorvastatin 80 mg
___ 09:32IVHeparin 4000 UNIT
___ 09:32IVHeparinStarted 1000 units/hr
___ 09:40IV DRIPNitroglycerin (0.35-3.5 mcg/kg/min
ordered)Started 0.35 mcg/kg/min
___ 09:51IV DRIPNitroglycerinChanged to 0.5 mcg/kg/min
___ 10:03IV DRIPNitroglycerin Changed to 1 mcg/kg/min
___ 10:17IV DRIPNitroglycerinChanged to 1.5 mcg/kg/min
___ 10:34IV DRIPNitroglycerinChanged to 2 mcg/kg/min

Vitals on transfer to cath lab :  
HR: 92, BP: 110/65, RR: 16, RR: 97% RA

On the floor
- Complete resolution of chest pain/pressure
- No dyspnea 

 
Past Medical History:
- Recurrent infectious pharyngitis including two paratonsillar
abscesses requiring drainage 
- Borderline hypertension without prior treatment
- Right arm cellulitis requiring hospitalization
- Microscopic hematuria 

 
Social History:
___
Family History:
Mother: ___ disorder
Father: HTN, HLD
Brother: ___ use disorder
No family history of cardiomyopathy or sudden cardiac death 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION 
==========================
VS:  T:98.0 BP:101/65, HR:73, RR:18: O2:95, RA
GENERAL:  Tired appearing man speaking to us in no apparent
distress
HEENT: Pupils equal and reactive, no scleral icterus or
injection. Enlarged tonsils with bilateral tonsillar exudates.
Submandibular and cervical tenderness and mild swelling without
asymmetry or overt lymphadenopathy. Moist mucous membranes. 
NECK: JVP ___ with some hepatojugular reflex. 
CARDIAC: S1/S2 regular without murmurs, rubs or S3/S4. No rub in
forward leaning position. 
LUNGS: Clear bilaterally. 
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES:  Warm extremities without edema. R arm with radial
bandage. Good pulse and warm fingers with normal sensation and
movement. 
PULSES: Strong pedal pulses. 

PHYSICAL EXAM ON DISCHARGE 
===========================
GENERAL: well appearing man in NAD, sitting up in bed 
HEENT: Pupils equal and reactive, no scleral icterus or
injection. Enlarged erythemic tonsils with bilateral tonsillar 
exudates R >L
Submandibular and cervical tenderness, though no notable 
cervical or clavicular lymphadenopathy. MMM 
NECK: JVP ___ with mild hepatojugular reflex. 
CARDIAC: S1/S2 regular without murmurs, rubs or S3/S4.No rub 
appreciated while sitting forward  
LUNGS: Clear bilaterally, no crackles or wheezing noted  
ABDOMEN: Soft, non-tender, non-distended, +BS
EXTREMITIES:  Warm extremities without edema. R arm with intact 
radial
bandage. Good pulse and warm fingers with normal sensation and
movement. 
PULSES: Strong pedal pulses.
SKIN: Dry and intact 
 
Pertinent Results:
ADMISSION LABS 
=============
___ 06:09AM BLOOD WBC-13.5* RBC-4.79 Hgb-13.6* Hct-39.4* 
MCV-82 MCH-28.4 MCHC-34.5 RDW-13.7 RDWSD-40.7 Plt ___
___ 06:09AM BLOOD Neuts-84.7* Lymphs-5.3* Monos-8.5 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-11.46* AbsLymp-0.72* 
AbsMono-1.15* AbsEos-0.01* AbsBaso-0.05
___ 07:36PM BLOOD ___ PTT-25.7 ___
___ 06:09AM BLOOD Plt ___
___ 06:09AM BLOOD Glucose-121* UreaN-17 Creat-0.8 Na-137 
K-3.6 Cl-100 HCO3-21* AnGap-16
___ 06:09AM BLOOD CK(CPK)-539*
___ 06:09AM BLOOD CK-MB-41* MB Indx-7.6* cTropnT-0.73*
___ 07:36PM BLOOD CK-MB-39* MB Indx-9.0* cTropnT-0.57*
___ 07:36PM BLOOD Calcium-9.3 Phos-2.5* Mg-2.0
___ 07:36PM BLOOD TSH-0.33

DISCHARGE LABS 
=============
___ 07:45AM BLOOD WBC-13.5* RBC-4.77 Hgb-13.5* Hct-39.9* 
MCV-84 MCH-28.3 MCHC-33.8 RDW-13.7 RDWSD-42.1 Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD Glucose-106* UreaN-17 Creat-0.7 Na-142 
K-3.9 Cl-105 HCO3-22 AnGap-15
___ 07:45AM BLOOD ALT-43* AST-53* LD(LDH)-346* AlkPhos-83 
TotBili-0.4
___ 07:45AM BLOOD Calcium-9.6 Phos-3.3 Mg-2.0

MICROBIOLOGY
============
___ Blood Culture = Pending
___ Strep and viral throat swabs = Pending

REPORTS AND IMAGING STUDIES
=========================

___ TRANSTHORACIC ECHOCARDIOGRAM 
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is normal left ventricular wall thickness with a 
mildly increased/dilated cavity. There is mild global left 
ventricular hypokinesis. No thrombus or mass is seen in the left 
ventricle. Quantitative biplane left ventricular ejection 
fraction is 42 %. Due to severity of mitral regurgitation, 
intrinsic left ventricular systolic function may be lower. There 
is no resting left ventricular outflow tract gradient. Tissue 
Doppler suggests a normal left ventricular filling pressure 
(PCWP less than 12mmHg). There is normal diastolic function. 
Normal right ventricular cavity size with uninterpretable free 
wall motion assessment. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is mild 
[1+] mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is a trivial pericardial effusion.

IMPRESSION: Normal left ventricular wall thickness with mild 
cavity dilation and mild global systolic dysfunction c/w a 
nonischemic cardiomyopathy or myocarditis. Mild mitral 
regurgitation. Mild tricuspid regurgitation.

Compared with the prior TTE (images reviewed) of ___ , 
the findings are similar. Left ventricular cavity size was 
underestimated on the prior study.

___ TRANSTHORACIC ECHOCARDIOGRAM 
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 42 %. 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal.
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.

IMPRESSION: Mild global left ventricular systolic dysfunction. 
MIld mitral regurgitation.

___ LEFT HEART CATHETERIZATION AND CORONARY ANGIOGRAPHY
LV Systolic = 101 
LVEDP = 21 
HR = 109

AO Systolic 93
AO Diastolic 73
AO Mean 76
HR 86

Angiography report pending, preliminary is no significant 
disease
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Mr. ___ is a ___ year old man with a prior history of 
borderline hypertension and recurrent strep pharyngitis who 
presents with pharyngitis and chest pain and was found to have 
ECG changes and troponin elevation consistent with 
myopericarditis. A TTE revealed depressed LVEF of 40%. He did 
not show evidence of hemodynamic compromise, heart failure 
decompensation, conduction abnormality, or arrhythmia. His 
troponins started downtrending within 12 hours of admission. He 
was discharged on treatment for presumed bacterial pharyngitis 
and pericarditis. 

# CORONARIES: ___: NO CAD
# PUMP: LVEF 42%, global LV systolic dysfunction, mild MR
# RHYTHM: Sinus

==================
TRANSITIONAL ISSUES
==================
Discharge Weight: (___) 94.8kg (209lb) 
Discharge Diuretic: None (written for lasix, but should only use 
if directed)
Discharge Creatinine: 0.7

[ ] If he has symptoms of recurrent chest pain, it would be 
reasonable to treat with colchicine in addition to ibuprofen. 
Would avoid steroids until absolutely necessary. 
[ ] Would consider elective tonsillectomy given recurrent strep 
pharyngitis
[ ] LFTs elevated, possibly in the setting of acute viral 
infection, but would repeat within 2 weeks as an outpatient 
[ ] Patient was provided with furosemide 20mg tablets, but 
should only take if instructed by a physician 
[ ] Will have repeat TTE in heart failure clinic to re-evaluate 
for improving systolic function 

New Medications: 
- Cephalexin 500mg twice daily through ___
- Ibuprofen 800mg three times daily x 7d, followed by 
- Ibuprofen 400mg three times daily x 7d
- Ibuprofen 400mg PRN after this 
- Torsemide 20mg PO, only to be taken if directed by physician 

___: None
Discontinued Medications: None

====================
ACUTE MEDICAL ISSUES
====================
#Myopericarditis with global LV dysfunction (LVEF 40%) 
Mr. ___ presented with clinical signs of pericarditis 
(pleuritic chest pain) and ECG evidence of pericaridits as well. 
Troponins were elevated confirming concomittant myocarditis. A 
coronary angiography did not show coronary disease. Left heart 
catheterization did show elevated LVEDP of 21, and a TTE showed 
global LV dysfunction with LVEF 40%. He did not show signs of 
hemodynamic compromise, heart failure decompensation, conduction 
abnormality, or arrhythmia, despite evidence of elevated filling 
pressures. 

Etiology very likely to be related to recent pharyngitis 
infection, especially given concurrent pericarditis. There is 
case-report evidence of strep pharyngitis-associated myocarditis 
and pericarditis. He received IV toradol and steroids, and was 
started on a nitroglycerin and heparin gtt in the ED and his 
chest pain resolved. He did not have recurrent chest pain. 

Utox negative, few eosinophils on peripheral smear. Mild 
presentation not consistent with giant cell myocarditis. No 
other evidence of endocarditis. His cardiac biomarkers, 
including CK-MB and troponin T, were downtrending during his 
admission. Limited repeat TTE on the day of discharge showed 
stable mild LV dysfunction. Review of his telemetry revealed on 
occasional premature atrial depolarizations without any 
sustained supraventricular or ventricular arrhythmias and no 
evidence of heart block. For treatment of his pharyngitis and 
myopericarditis:  

- Keflex ___ PO twice daily through ___ 
- Ibuprofen 800mg three times daily x 7d
- Ibuprofen 400mg three times daily x 7d
- Ibuprofen 400mg PRN after this 
- Strep culture and viral culture pending at discharge, but will 
treat with 7d course of keflex for presumptive strep pharyngitis 
given strong history of this
- Follow-up in heart failure clinic to be arranged after 
discharge
- Low threshold to restart colchicine if recurrent pericarditis 
symptoms 

#Pharyngitis
Extended history of bacterial pharyngitis including two episodes 
of peritonsillar abscess requiring drainage. Clear evidence of 
pharyngitis on exam without evidence of abscess. Culture taken, 
but after antibiotics already started. Will treat empirically 
for bacterial infection with 7d course of keflex ___ twice 
daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H 
RX *cephalexin 500 mg 1 capsule(s) by mouth twice daily Disp 
#*11 Capsule Refills:*0 
2.  Furosemide 20 mg PO DAILY 
Do not take unless instructed by doctor.  
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0 
3.  Ibuprofen 800 mg PO Q8H Duration: 7 Days 
RX *ibuprofen 800 mg 1 tablet(s) by mouth three times daily Disp 
#*21 Tablet Refills:*0 
4.  Ibuprofen 400 mg PO Q8H Duration: 7 Days 
start after completing course of 800mg three times daily 
RX *ibuprofen 400 mg 1 tablet(s) by mouth three times daily Disp 
#*21 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================
PRIMARY DIAGNOSIS
================
Myopericarditis

===================
SECONDARY DIAGNOSES
===================
Acute heart failure with reduced ejection fraction, not 
decompensated 
Pharyngitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having throat pain and chest pain. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We found that you have inflammation of the heart muscle, and 
of the sack the surrounds the heart: this is called myocarditis 
and pericarditis. 
- Because your symptoms can be consistent with a heart attack, 
we did a procedure to look at the vessels in the heart (coronary 
angiography). This did not show any blockages or narrowing. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- You are still at risk for cardiac complications. If you have 
difficult breathing, swelling in your legs, worsening fatigue, 
feeling lightheaded, call a doctor right away. You need to call 
___ or go to an emergency department if it feels like your heart 
is beating strangely or too fast, or if you pass out at any 
time. 
- Do not do any exercise until you see a doctor who tells you 
this is ok. Normal household activities are fine to do. 
- Buy a scale and take your weight every morning after getting 
up. If your weight goes up 3 pounds in a day or 5 pounds in a 
week, call your doctor right away. Your weight when you left the 
hospital was  209 pounds (94.8 kilograms). 
- Carefully review the attached medication list. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___